US08609675B2
Step A—Synthesis of tert-butyl 4-(2-methoxy-2-oxoethyl)piperidine-1-carboxylate (Int-12a)
At 0° C., TMSCHN2 (2.0 M in ether, 15 mL) was added dropwise to a mixture of 2-(1-(tert-butoxycarbonyl)piperidin-4-yl)acetic acid (6272 mg, 25.78 mmoL) in toluene (60 mL) and MeOH (60 mL). After stirring at room temperature for 1 h, the mixture was concentrated. The crude tert-butyl 4-(2-methoxy-2-oxoethyl)piperidine-1-carboxylate (Int-12a) was pure enough without further purification.

reactant | TMSCHN2 | 2.0 M, 15 mL | [Si](C)(C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | 2-(1-(tert-butoxycarbonyl)piperidin-4-yl)acetic acid | 6272 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CC(=O)O | C12H21NO4
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
solvent | MeOH | 60 mL | CO | CH4O
product | tert-butyl 4-(2-methoxy-2-oxoethyl)piperidine-1-carboxylate | COC(CC1CCN(CC1)C(=O)OC(C)(C)C)=O | C13H23NO4
